US07241785B2
A mixture of methyl 4-bromo-5-oxo-5-phenylpentanoate (15.0 g), thiourea (3.81 g) and methanol (200 ml) was refluxed for 2 hrs. The reaction solvent was removed under reduced pressure, and the residue was dissolved in ethyl acetate. The obtained solution was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give methyl 3-(2-amino-4-phenyl-5-thiazolyl)propionate (11.9 g, yield 90%) as pale-yellow crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 130–131° C.

reactant | methyl 4-bromo-5-oxo-5-phenylpentanoate | 15.0 g | BrC(CCC(=O)OC)C(C1=CC=CC=C1)=O | C12H13BrO3
reactant | thiourea | 3.81 g | NC(=S)N | CH4N2S
solvent | methanol | 200 ml | CO | CH4O
product | methyl 3-(2-amino-4-phenyl-5-thiazolyl)propionate | 11.9 g, yield 90% | NC=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C13H14N2O2S
